US05567614
The above procedure may, in turn, be followed by modification of the lactam formed, should a different lactam starting material be desired. For example, a cis-1-p-methoxyphenyl-3-acetoxy-4-phenylazetidin-2-one racemate prepared as above, in acetonitrile at a temperature such as -10° C. to -5° C., may be treated with a solution of ceric ammonium nitrate in water to yield a cis-3-acetoxy-4-phenylazetidin-2-one racemate. The latter compound may, for example, further be hydrolyzed, e.g., with aqueous potassium hydroxide, to yield cis-3-hydroxy-4-phenylazetidin-2-one.

reactant | cis-1-p-methoxyphenyl-3-acetoxy-4-phenylazetidin-2-one | COC1=CC=C(C=C1)N1C([C@H]([C@H]1C1=CC=CC=C1)OC(C)=O)=O | C18H17NO4
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | cis-3-acetoxy-4-phenylazetidin-2-one | C(C)(=O)O[C@@H]1C(N[C@@H]1C1=CC=CC=C1)=O | C11H11NO3
